US04933330
Ethyl 2-acetoxy-5-aminobenzoate
Ethyl 2-acetoxy-5-benzylideneaminobenzoate (10.0 g, 32.2 mmole) was refluxed in water-ethanol (3:1, 750 ml) for about 1 hour, after which time the mixture was cooled and the precipitate isolated by filtration. After a further recrystallization this gave the title compound (3.0 g, 42%), m.p. 82.5°-83° C. Found (Calc. for C11H13NO4) C 58.96 (59.19). H 5.98 (5.83), N 6.22 (6.28).

reactant | Ethyl 2-acetoxy-5-benzylideneaminobenzoate | 32.2 mmole, 10.0 g | C(C)(=O)OC1=C(C(=O)OCC)C=C(C=C1)N=CC1=CC=CC=C1 | C18H17NO4
solvent | water ethanol | 750 ml | O.C(C)O
product | Ethyl 2-acetoxy-5-aminobenzoate | 3.0 g, 42% | C(C)(=O)OC1=C(C(=O)OCC)C=C(C=C1)N | C11H13NO4
